### PR TITLE
Update TPE proof for `<error-free> && false` reduction

### PR DESCRIPTION
**Pull request by john-h-kastner-aws**
Model and proof for simplifications in https://github.com/cedar-policy/cedar/pull/2091

Update to TPE algorithm is in cedar-lean/Cedar/TPE/Evaluator.lean and cedar-lean/Cedar/TPE/Residual.lean.

Main lemma is

```lean
theorem error_free_evaluate_ok {r : Residual} :
  InstanceOfWellFormedEnvironment req es env →
  Residual.WellTyped env r →
  r.ErrorFree →
  (r.evaluate req es).isOk
```

showing that the error-free predicate guarantees a well-typed residual cannot error.

### CODE REVIEW

File: cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean [hunk 1]
```diff
@@ -95,33 +97,41 @@ private theorem partial_eval_preserves_typeof_or {env : TypeEnv} {a b : Residual
...
+    all_goals
+      split at heq
+    any_goals
       split at heq
 
-    any_goals contradiction
+    any_goals
+      contradiction
 
     any_goals
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean]: nit: instead of using `any_goals` so much, we could be more explicit which goal we're intending to apply this to, by using `case h_whatever => ...` or `case' h_whatever => ...`

File: cedar-lean/Cedar/Thm/TPE/Soundness.lean [hunk 2]
```diff
@@ -224,6 +226,7 @@ theorem partial_evaluate_is_sound_and
 {pes : PartialEntities}
 {env : TypeEnv}
 (h₂ : InstanceOfWellFormedEnvironment req es env)
+(h₄ : RequestAndEntitiesRefine req es preq pes)
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/TPE/Soundness.lean]: nit: skipped h3

File: cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean (hunk 1 above)
Comment (john-h-kastner-aws) [reply cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean]: 91 goals unfortunately. I'll see if there's a more substantial simplification to this proofs

Comment (john-h-kastner-aws) [reply cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean]: yeah, this whole file could be simplified a lot

File: cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean [hunk 3]
```diff
@@ -46,45 +46,28 @@ private theorem partial_eval_preserves_typeof_and {env : TypeEnv} {a b : Residua
...
+    replace ih_b := ih_b h_wf h_ref h_bwt
+    rw [h_bty] at ih_b
+    exact ih_b
+  · simp only [Residual.typeOf]
+    cases h_wt
+    rfl
+  · simp [Residual.typeOf]
+  · cases h_wt
+    rename_i h_awt h_aty _ _
+    replace ih_a := ih_a h_wf h_ref h_awt
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/TPE/PreservesTypeOf.lean:62]: just in case you aren't aware of this tactic: this could be written as as a call to `specialize`. Same with some other `replace` calls in this file
